US09382188B2
F) 3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)propanoic acid
To a solution of 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanal (152 mg) in tert-butanol (3.5 mL) were successively added water (0.50 mL), sodium dihydrogen phosphate (126 mg), sodium chlorite (95 mg) and 2-methyl-2-butene (0.19 mL), and the mixture was stirred at room temperature for 45 min. 1N Hydrochloric acid and water were added, and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (132 mg) as a colorless oil.

reactant | 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanal | 152 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)CCC=O)CC(C)(C)C | C28H31FO3
reactant | sodium dihydrogen phosphate | 126 mg | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 95 mg | Cl(=O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.19 mL | CC(C)=CC | C5H10
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tert-butanol | 3.5 mL | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
solvent | water | 0.50 mL | O | H2O
product | 3-(3-(((2-(2,2-dimethylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)propanoic acid | 132 mg | CC(CC1=C(C=CC(=C1)OCC=1C=C(C=CC1)CCC(=O)O)C1=C(C=CC(=C1)OC)F)(C)C | C28H31FO4
